US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-(6-dimethylamino-pyridin-2-ylmethyl)-N-ethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid with (6-ethylaminomethyl-pyridin-2-yl)-dimethyl-amine

reactant | [(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC(=CC=C1)N(C)C)CC(=O)O | C20H26N2O4S
reactant | (6-ethylaminomethyl-pyridin-2-yl)-dimethyl-amine | C(C)NCC1=CC=CC(=N1)N(C)C | C10H17N3
product | 2-[(4-tert-Butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-(6-dimethylamino-pyridin-2-ylmethyl)-N-ethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC)CC1=NC(=CC=C1)N(C)C)C1=CC(=CC=C1)N(C)C | C30H41N5O3S
